* source 2
M_M1         N00140 N00140 N00169 N00169 M2SJ102
M_M2         N00169 N00169 N00200 N00200 M2SJ102
M_M3         N00200 N00200 0 0 M2SJ102
V_V1         N00140 0 1vdc
