* source 3
X_U1         N00364 N00293 N00408 M_UN0001 $G_DPWR $G_DGND DFF
X_U2         N00485 N00293 N00527 N01618 $G_DPWR $G_DGND DFF
X_U3         N00408 N00450  $G_DPWR $G_DGND INV
X_U4         N00450 N00485  $G_DPWR $G_DGND INV
V_V2         N00750 N00811  
+PULSE 0 1 1n 1n 1n 1m 2m
X_U5         N00527 N00750 N00364 $G_DPWR $G_DGND NOR2
V_V1         N00293 N00811  
+PULSE 1 0 1n 1n 1n 1m 2m
